US07230020B2
Reaction of-2-thiopheneethylamine (50 μL, 0.42 mmol) in THF (2.5 mL) with m-anisoyl chloride (74 μL, 0.57 mmol) in presence of triethylamine (78 μL, 0.55 mmol) according to method A gave 3-methoxy-N-(2-thiophen-2-yl-ethyl)-benzamide (100 mg, 0.38 mmol, 90% yield) as a yellow wax after purification on silica gel (eluent: EtOAc/hexane 5/95 to 20/80).

reactant | 2-thiopheneethylamine | 0.42 mmol, 50 μL | S1C(=CC=C1)CCN | C6H9NS
reactant | m-anisoyl chloride | 0.57 mmol, 74 μL | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | triethylamine | 0.55 mmol, 78 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 3-methoxy-N-(2-thiophen-2-yl-ethyl)-benzamide | 0.38 mmol, 100 mg, 90% yield | COC=1C=C(C(=O)NCCC=2SC=CC2)C=CC1 | C14H15NO2S
